US07169789B2
N-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinolyl}oxy)phenyl]-N′-propylurea
A starting compound (N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate (59 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 120° C. for 5 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform-methanol to give 92 mg (yield 92%) of the title compound.

reactant | N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C20H20ClN3O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1H-1,2,3-triazol-1-yl)ethyl 4-methyl-1-benzenesulfonate | 59 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=NC=C1 | C11H13N3O3S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[2-Chloro-4-({6-methoxy-7-[2-(1H-1,2,3-triazol-1-yl)ethoxy]-4-quinolyl}oxy)phenyl]-N′-propylurea | 92 mg, yield 92% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1N=NC=C1)NC(=O)NCCC | C24H25ClN6O4
